US05455242
Scheme G, step a: N-(phenylmethylene)-2-(3-butenyl)glycine methyl ester
Dissolve diisopropylamine (15.4 mL, 110 mmol) in tetrahydrofuran (250 mL), place under a nitrogen atmosphere and cool to -78° C. Add n-butyllithium (39 mL of a 2.7M solution in hexane, 105 mmol). Stir for 30 minutes and add, by dropwise addition, a solution of N-(phenylmethylene)glycine methyl ester (17.7 g, 100 mmol) in tetrahydrofuran (25 mL). Stir for 15 minutes and add 4-bromobutene (13.5 g, 100 mmol) and allow to warm slowly to room temperature. Add hexamethylphosphoramide (20 mL, 100 mmol) and stir under a nitrogen atmosphere for 3 hours. Pour into water, extract into ethyl ether and wash with brine several times. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as an amber oil (25 g).

reactant | diisopropylamine | 110 mmol, 15.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(phenylmethylene)glycine methyl ester | 100 mmol, 17.7 g | COC(CN=CC1=CC=CC=C1)=O | C10H11NO2
reactant | 4-bromobutene | 100 mmol, 13.5 g | BrCCC=C | C4H7Br
reactant | hexamethylphosphoramide | 100 mmol, 20 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(phenylmethylene)-2-(3-butenyl)glycine methyl ester | 25 g | COC(C(N=CC1=CC=CC=C1)CCC=C)=O | C14H17NO2
